### ISSUE TITLE
Pretty Printer fails round trip with projection notation

### ISSUE THREAD

**Issue by shingtaklam1324** [leanprover-community/lean#268]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover-community/lean/issues).
        * Specifically, check out the [wishlist](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover-community/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

The output from the pretty printer parses to something different to the original expression.

### Steps to Reproduce

Here's an example definition from Zulip by @digama0. ([Zulip](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/pretty.20printer.20uses.20projection.20notation.20only.20for.20first.20arg/near/198578784)) I added in the part below to show how `extract_goal`'s output doesn't work with `exact`, as the pretty printer output from `extract_goal` is different to the current goal.

```lean
import tactic

def nat.case {α} (a b : α) (n : ℕ) : α := nat.cases_on n a (λ _, b)

variables (a b c : ℕ)
#check nat.case a b c -- a.case b c : ℕ
#check a.case b c -- b.case c a : ℕ

-- output from `extract_goal` below
lemma lemma1 (a b c : ℕ)  : a.case b c = b :=
begin
  admit
end

example (a b c : ℕ) : nat.case a b c = b :=
begin
  extract_goal lemma1,
  exact lemma1 a b c, -- error
end
```

**Expected behavior:** [What you expect to happen]

The two `#check`s should have the same output, the `exact` line should work

**Actual behavior:** [What actually happens]

Shown as comments

**Reproduces how often:** [What percentage of the time does it reproduce?]

### Versions

`3.14.0`

### Additional Information

N/A

**Comment by shingtaklam1324** [comment]
Another issue with the pretty printer, projection notation and round trip:

```
lemma l1 : (1:ℝ) + 1 ≤ 2 := by norm_cast

#print l1
```

If we copy the output from the `#print` command, and paste it into a file, Lean complains about invalid field notation. The output is included below, but it includes parts such as `1.cast_bit0.trans`, which is an error in Lean.

```
theorem l1 : 1 + 1 ≤ 2 :=
(id
   (((λ [c : has_le ℝ] (a a_1 : ℝ) (e_2 : a = a_1) (a_2 a_3 : ℝ) (e_3 : a_2 = a_3),
        congr (congr_arg has_le.le e_2) e_3)
       (1 + 1)
       (↑1 + ↑1)
       ((λ [c : has_add ℝ] (a a_1 : ℝ) (e_2 : a = a_1) (a_2 a_3 : ℝ) (e_3 : a_2 = a_3),
           congr (congr_arg has_add.add e_2) e_3)
          1
          ↑1
          nat.cast_one.symm
          1
          ↑1
          nat.cast_one.symm)
       2
       ↑2
       (1.cast_bit0.trans
          ((λ [s : has_add ℝ] (a a_1 : ℝ) (e_2 : a = a_1), congr_arg bit0 e_2) ↑1 1 nat.cast_one)).symm).trans
      (((λ [c : has_le ℝ] (a a_1 : ℝ) (e_2 : a = a_1) (a_2 a_3 : ℝ) (e_3 : a_2 = a_3),
           congr (congr_arg has_le.le e_2) e_3)
          (↑1 + ↑1)
          ↑(1 + 1)
          (1.cast_add 1).symm
          ↑2
          ↑2
          (eq.refl ↑2)).trans
         (propext nat.cast_le)))).mpr
  (le_refl (1 + 1))
```
